US08097610B2
Preparation of [3-[2-[4-[5-(2,5-difluorophenyl)thiazole-2-yl]-2,6-dimethyl piperazine-1-yl]ethoxy]-4-methylphenyl]acetic acid
A mixture of [3-[2-[4-(5-bromothiazole-2-yl)-2,6-dimethyl piperazine-1-yl]ethoxy]-4-methylphenyl]acetic acid (400 mg), 2,5-difluorophenyl boronic acid (270 mg), tetrakis(triphenylphosphine) palladium (100 mg), 1M sodium carbonate (4.3 mL) and dimethylformamide (8 mL) was reacted with a microwave reaction device at 180° C. for 5 minutes. To the reaction solution was added water and extracted with chloroform. The organic layer was washed with water and brine, and dried over magnesium sulphate. The solvent was evaporated under reduced pressure. The residue was purified by column chromatograph on silica gel to give the title compound (369 mg). Yield: 87%.

reactant | [3-[2-[4-(5-bromothiazole-2-yl)-2,6-dimethyl piperazine-1-yl]ethoxy]-4-methylphenyl]acetic acid | 400 mg | BrC1=CN=C(S1)N1CC(N(C(C1)C)CCOC=1C=C(C=CC1C)CC(=O)O)C | C20H26BrN3O3S
reactant | 2,5-difluorophenyl boronic acid | 270 mg | FC1=C(C=C(C=C1)F)B(O)O | C6H5BF2O2
reactant | sodium carbonate | 1M, 4.3 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine) palladium | 100 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | O | H2O
product | [3-[2-[4-[5-(2,5-difluorophenyl)thiazole-2-yl]-2,6-dimethyl piperazine-1-yl]ethoxy]-4-methylphenyl]acetic acid | 369 mg, Yield: 87% | FC1=C(C=C(C=C1)F)C1=CN=C(S1)N1CC(N(C(C1)C)CCOC=1C=C(C=CC1C)CC(=O)O)C | C26H29F2N3O3S
